US06277617B1
3-methylbutyl Methanethiosulfonate
The reaction mixture of 1-bromo-3-methylbutane (1.7520 g, 0.0116 mol) and sodium methanethiosulfonate (1.554 g, 0.0116 mol) in dry DMF (5 mL) was heated at 50° C. for 2 hr. At room temperature, water (15 mL) was added and the mixture was extracted with ether (3×30 mL). The combined extracts were washed with brine, dried, concentrated. The residue was subjected to flash column chromatography on silica gel with EtOAc-hexanes (1:4). The product was obtained as a colorless liquid (1.4777 g, 70%). IR (film): 3030 (w), 3011 (w), 2958 (st), 2932 (st), 2873 (st), 1468 (m), 1410 (w), 1388 (w), 1367 (w), 1319 (st), 1136 (st), 955 (st), 748 cm−1 (st); 1H NMR (200 MHz, CDCl3): δ 3.33 (s, 3H, CH3SO2S); 3.19 (t, J=7.1 Hz, 2H, SCH2CH2), 1.70-1.58 (m, 3H, SCH2CH2CHMe2), 0.95 (d, J=5.3 Hz, 6H, CHMe2); 13C NMR (50 MHz, CDCl3): δ 50.60, 38.19, 34.59, 27.40, 22.06.

reactant | 1-bromo-3-methylbutane | 0.0116 mol, 1.7520 g | BrCCC(C)C | C5H11Br
reactant | sodium methanethiosulfonate | 0.0116 mol, 1.554 g | CS(=O)([O-])=S.[Na+]
reactant | water | 15 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-methylbutyl Methanethiosulfonate | 1.4777 g, 70% | CS(=O)(OCCC(C)C)=S | C6H14O2S2
